US04715994
1-Aminoethyl-[2,3-dicarboxy-1-n-propyl]phosphinic acid
By methods used in Example 2 and employing methyl-2-t-butoxycarbonylmethylacrylate was prepared methyl-1-benzyloxycarbonylaminoethyl-[2-carbomethoxy-3-butoxycarbonyl-1-propyl]phosphinate. TLC (silica, 9:1, ethyl acetate:acetonitrile) Rf =0.58.

reactant | methyl-2-t-butoxycarbonylmethylacrylate | COC(C(=C)CC(=O)OC(C)(C)C)=O | C10H16O4
reactant | methyl-1-benzyloxycarbonylaminoethyl-[2-carbomethoxy-3-butoxycarbonyl-1-propyl]phosphinate | COP(=O)(CC(CC(=O)OCCCC)C(=O)OC)C(C)NC(=O)OCC1=CC=CC=C1 | C21H32NO8P
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-Aminoethyl-[2,3-dicarboxy-1-n-propyl]phosphinic acid | NC(C)P(O)(=O)CC(CC(=O)O)C(=O)O | C7H14NO6P
